US06689733B1
N,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-2-methylpropane-1,2-diamine
Synthesis and working up are carried out as in Example 9, starting from 500 mg (2.79 mmol) of 4-(ethylmethylamino)salicylaldehyde and 117 mg (1.33 mmol) of 1,2-diamino-2-methylpropane.

reactant | 4-(ethylmethylamino)salicylaldehyde | 2.79 mmol, 500 mg | C(C)N(C=1C=C(C(C=O)=CC1)O)C | C10H13NO2
reactant | 1,2-diamino-2-methylpropane | 1.33 mmol, 117 mg | NCC(C)(C)N | C4H12N2
product | N,N′-Bis[4-(N-ethyl-N-methylamino)salicylidene]-2-methylpropane-1,2-diamine | C(C)N(C)C=1C=C(C(C=NCC(C)(N=CC=2C(O)=CC(=CC2)N(CC)C)C)=CC1)O | C24H34N4O2
